US08247429B2
N-[2-(5-fluoro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethyl]propanamide
2-(5-Fluoro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethanamine (78.0 mg, 0.337 mmol) was dissolved in tetrahydrofuran (3.4 mL), triethylamine (56.4 μL, 0.404 mmol) and propionic anhydride (47.6 μL, 0.371 mmol) were added under ice-cooling, and the mixture was stirred for 15 min. The reaction solution was diluted with saturated aqueous sodium hydrogen carbonate solution, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (methanol/ethyl acetate=3/97→15/85) to give the title compound (83.2 mg, yield 86%).

reactant | 2-(5-Fluoro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethanamine | 0.337 mmol, 78.0 mg | FC=1C2=C(C3=CN(N=C3C1)C)C(CC2)=CCN | C13H14FN3
reactant | triethylamine | 0.404 mmol, 56.4 μL | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 0.371 mmol, 47.6 μL | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | tetrahydrofuran | 3.4 mL | O1CCCC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-[2-(5-fluoro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethyl]propanamide | 83.2 mg, yield 86% | FC=1C2=C(C3=CN(N=C3C1)C)C(CC2)=CCNC(CC)=O | C16H18FN3O
